US04504491
To a stirred suspension of methyltriphenylphosphonium iodide (5 g, 12.4 mmol) in dry ether (150 cm3) under nitrogen at room temperature was added n-butyllithium in hexane (15% w/w, 5 g) over 15 minutes. After 30 minutes, the mixture was cooled in an ice bath and the dioxolane from (c) above (1.8 g, 7.1 mmol) dissolved in dry diethyl ether (10 cm3) was added dropwise. The cooling bath was removed and the mixture allowed to warm up to 20° C. over 3 hours. Water (200 cm3) was added to the reaction mixture and filtered after stirring for 10 minutes. The ethereal layer was separated and the aqueous layer extracted twice with ether. The combined extracts were dried over anhydrous Na2SO4 and the solvent removed in vacuo to give 2-(3-(1-phenylvinyl)phenyl)-1,3-dioxolane. Yield 1.54 g.

reactant | methyltriphenylphosphonium iodide | 12.4 mmol, 5 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | dioxolane | O1COCC1 | C3H6O2
reactant | hexane | 5 g | CCCCCC | C6H14
solvent | ether | 150 cm3 | CCOCC | C4H10O
solvent | diethyl ether | 10 cm3 | C(C)OCC | C4H10O
product | 2-(3-(1-phenylvinyl)phenyl)-1,3-dioxolane | C1(=CC=CC=C1)C(=C)C=1C=C(C=CC1)C1OCCO1 | C17H16O2
